US06479531B1
3-[(5-Cycloheptylmethyl-2-o-tolyl-1H-imidazole-4-carbonyl)-amino]-benzoic Acid
The title compound was prepared according to the procedure of Example 20, with the modification that o-tolualdehyde was used instead of 2-naphthaldehyde in step b, and 3-amino-benzoic acid benzyl ester replaced 5-amino-isophthalic acid dibenzyl ester in step d. 1H NMR (300 MHz, d6-DMSO) 13.00 (1H, br s), 12.52 (1H, br s), 9.78 (1H, s), 8.51 (1H, s), 7.93 (1H, m), 7.60 (2H, m), 7.41 (1H, t), 7.32 (3H, m), 2.93 (2H, d), 2.54 (3H, s), 2.00 (1H, m), 1.66-1.22 (12H, m). The acid was converted to the N-methyl-D-glucamine salt and lyophilised from water/dioxan. Found: C, 60.05; H, 7.70; N, 8.46%. C33H46N4O8.1.9 mols H2O requires: C, 60.03; H, 7.59; N, 8.49%.

reactant | o-tolualdehyde | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | 3-amino-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)N)=O | C14H13NO2
reactant | 5-amino-isophthalic acid dibenzyl ester | C(C1=CC=CC=C1)OC(C1=CC(C(=O)OCC2=CC=CC=C2)=CC(=C1)N)=O | C22H19NO4
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | H2O | 1.9 mols | O | H2O
reactant | water dioxan | O.O1CCOCC1
product | 3-[(5-Cycloheptylmethyl-2-o-tolyl-1H-imidazole-4-carbonyl)-amino]-benzoic Acid | C1(CCCCCC1)CC1=C(N=C(N1)C1=C(C=CC=C1)C)C(=O)NC=1C=C(C(=O)O)C=CC1 | C26H29N3O3
